US07691877B2
4-Amino-1-benzyl-6-(2-fluoro-phenyl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
[2-Amino-6-(2-fluoro-phenyl)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester (31 mg) was dissolved in acetic acid (1 ml). Zinc powder (Aldrich, 99%, 20 mg) was added and the mixture left to stir at room temperature under nitrogen for 2 hours. Additional zinc powder (30 mg) was added and mixture left to stir for a further 1 hour. The reaction mixture was diluted with methanol (2 ml) then filtered directly onto a cation exchange cartridge (Bakerbond SCX, sulphonic acid bonded-phase, 1 g). The SCX cartridge was washed with methanol (2×5 ml) to remove impurities and then the product was released with ammonia in methanol (2 M, 5 ml). The desired fraction was evaporated to a pale brown solid. This was triturated with ethyl acetate then filtered and washed with more ethyl acetate to yield the title compound (8 mg) as a pale purple solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.99 (s, 2 H) 5.82 (s, 2 H) 6.87 (d, J=1.95 Hz, 1 H) 7.15-7.29 (m, 3 H) 7.29-7.39 (m, 5 H) 7.81 (td, J=8.01, 1.95 Hz, 1 H) 10.51 (s, 1 H), LCMS Rt=2.21 m/z 335 [MH]+

reactant | [2-Amino-6-(2-fluoro-phenyl)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester | 31 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)C1=C(C=CC=C1)F)N)[N+](=O)[O-])=O | C21H19FN4O4
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 2 ml | CO | CH4O
catalyst | Zinc | 20 mg | [Zn] | Zn
catalyst | zinc | 30 mg | [Zn] | Zn
product | 4-Amino-1-benzyl-6-(2-fluoro-phenyl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 8 mg | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)C2=C(C=CC=C2)F | C19H15FN4O
